US07691882B2
3-(3-(4-(4-Methyl-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
Methanol (3 mL) and 1 N aqueous sodium hydroxide solution (0.18 mL) were added to 4-(5-(2-amino-pyridine-3-yl)isoxazole-3-ylmethyl)-phenol (50 mg, 0.19 mmol) described in Manufacturing Example 5-1-1, which was then dissolved by irradiating ultrasonic wave. This solution was concentrated under a reduced pressure. To the resulting residue were added 2-chloromethyl-4-methyl-pyridine (31.8 mg, 0.22 mmol) described in Manufacturing Example 11-1-4 and N,N-dimethylformamide (2 mL), which was stirred for 10 minutes at 60° C. The reaction solution was partitioned into water and ethyl acetate. The organic layer was separated, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:1) to obtain the title compound (21 mg, 30.2%).

reactant | Methanol | 3 mL | CO | CH4O
reactant | sodium hydroxide | 1 N, 0.18 mL | [OH-].[Na+]
reactant | 4-(5-(2-amino-pyridine-3-yl)isoxazole-3-ylmethyl)-phenol | 0.19 mmol, 50 mg | NC1=NC=CC=C1C1=CC(=NO1)CC1=CC=C(C=C1)O | C15H13N3O2
reactant | 2-chloromethyl-4-methyl-pyridine | 0.22 mmol, 31.8 mg | ClCC1=NC=CC(=C1)C | C7H8ClN
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 3-(3-(4-(4-Methyl-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 21 mg, 30.2% | CC1=CC(=NC=C1)COC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C22H20N4O2
